*
* Diode Sim Model Produced by Altium Ltd
* Date:  21-Mar-2003
*
* Manufacturer: Philips
* Component Name: BZX84C9V1
*
* This macromodel models the effect of carrier recombination-generation
* and high-level injection on the diode.
*
*Note: This macromodel derived from data sheets and pspice models obtained from Philips Semiconductor.

.SUBCKT BZX84C9V1 10 30

*These components model forward-biased conditions
D1 10 20 DIDEAL
D2 10 20 DRECOMB
D3 20 30 DHIGH

*These components model reversed-biased conditions
D4 30 60 DPARASITIC
RZ 50 60 0.85899
Vbrk 50 10 9.1

* Subcircuit models
*+  BV =  9.2329
*+  IBV =  1.01E+00
.MODEL DIDEAL D
+(
+  IS =  1.1088E-16
+  N =  0.92657
+  TT =  0.00000277
+  CJO =  4.9094E-11
+  VJ =  0.69176
+  M =  0.33781
+)

.MODEL DHIGH D
+(
+  IS =  4.751923084
+  N =  0.92657
+  RS =  0.85899
+)

.MODEL DRECOMB D
+(
+  IS =  5.17244E-11
+  N =  2.054904317
+)

.MODEL DPARASITIC D
+(
+	N = 0.001
+	RS = 0.001
+	CJO = 0.001P
+)

.ENDS BZX84C9V1